US06313126B1
3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1-methyl-1H-indole-5-carbonitrile
A solution of 4-(5-cyano-1-methyl-3-indolyl)-cyclohexanone (0.75 g, 3 mmol), 1-(indol-4-yl)piperazine (0.6 g, 3 mmol), sodium triacetoxyborohydride (0.95 g, 4.5 mmol) and acetic acid (0.34 ml, 6 mmol) in 1,2-dichloroethane (20 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (10 ml), extracted with methylene chloride (3×60 ml) and washed with brine (3×60 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (10% methanol-ethyl acetate) afforded 0.73 g (56%) of product as a white solid: mp 274-275° C.

reactant | 4-(5-cyano-1-methyl-3-indolyl)-cyclohexanone | 3 mmol, 0.75 g | C(#N)C=1C=C2C(=CN(C2=CC1)C)C1CCC(CC1)=O | C16H16N2O
reactant | 1-(indol-4-yl)piperazine | 3 mmol, 0.6 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 4.5 mmol, 0.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 6 mmol, 0.34 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1-methyl-1H-indole-5-carbonitrile | 0.73 g, 56% | CN1C=C(C2=C1C=CC(=C2)C#N)C3CCC(CC3)N4CCN(CC4)C5=CC=CC6=C5C=CN6 | C28H31N5
